### PR TITLE
[Merged by Bors] - feat: Prove r_zpow

### PR DESCRIPTION
**Pull request by ldct**
Prove formulas for `(r i)^k` in a dihedral group, as requested [here](https://github.com/leanprover-community/mathlib4/pull/20338#discussion_r1899657779)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 1]
```diff
@@ -107,6 +107,22 @@ theorem r_zero : r 0 = (1 : DihedralGroup n) :=
...
+  rw [show (r i)^(k+1) = (r i)^k * (r i) by rfl, IH]
+  simp only [r_mul_r, Nat.cast_add, Nat.cast_one, r.injEq]
+  ring
+
+@[simp]
+theorem r_zpow (i : ZMod n) (k : ℤ) : (r i)^k = r (i * k : ZMod n) := by
+  cases k
+  · simp [r_pow]
+  · simp [r_pow]
+    ring
```
Comment (Paul-Lez) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:124]: Note that you can simplify this a little:
```suggestion
  cases k <;> simp [r_pow, neg_mul_eq_mul_neg]
```

**Review by Paul-Lez — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks for coming back to this!

bors merge
